US08895745B2
Step (b): 7-Chloro-3-iodo-imidazo[1,2-a]pyridine
To a solution of 7-Chloro-imidazo[1,2-a]pyridine (30.9 g, 186 mmol, 1.0 equiv) in DMF (280 ml) was added N-iodosuccinimide (43.6 g, 194 mmol, 1.05 equiv) and the resulting mixture was stirred overnight at RT. The thin brown slurry was diluted with water (840 ml), brine (280 ml) and extracted with EtOAc (560 ml). The aqueous was further extracted with EtOAc (3×280 ml). The combined organic phases were washed with water (2×280 ml), 10% w/v sodium thiosulfate (280 ml), brine (280 ml), dried (MgSO4), filtered and concentrated in vacuo to give a brown residue. The residue was triturated with ether (200 ml), filtered and the solid was washed ether (2×50 ml) and dried on the filter to give 39 g of product. MS: [M+H]+ 279

reactant | 7-Chloro-imidazo[1,2-a]pyridine | 186 mmol, 30.9 g, 1.0 equiv | ClC1=CC=2N(C=C1)C=CN2 | C7H5ClN2
reactant | N-iodosuccinimide | 194 mmol, 43.6 g, 1.05 equiv | IN1C(CCC1=O)=O | C4H4INO2
solvent | DMF | 280 ml | CN(C)C=O | C3H7NO
solvent | water | 840 ml | O | H2O
solvent | brine | 280 ml | [Cl-].[Na+].O
product | 7-Chloro-3-iodo-imidazo[1,2-a]pyridine | 39 g | ClC1=CC=2N(C=C1)C(=CN2)I | C7H4ClIN2
